US07994171B2
2-(4-fluorophenyl)-N-methyl-4-nitro-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide.
Step 1: ethyl 2-(4-fluorophenyl)-4-nitro-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxylate (300 mg, 0.529 mmol) was diluted with EtOH (10 mL) and treated with NaOH (2.1 mL, 2.12 mmol, 1N aq.) and the mixture, which became a slurry, was allowed to stir overnight at 60° C. The reaction was diluted with EtOAc and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated. Step 2: EDC (128 mg, 0.668 mmol) was added to a stirring solution of the crude 2-(4-fluorophenyl)-4-nitro-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxylic acid (300 mg, 0.557 mmol), methanamine (306 μL, 0.613 mmol), 1-hydroxy-7-azabenzotriazole (83 mg, 0.613 mmol), DIEA (204 μL, 1.170 mmol) in DCM (5.5 mL) at rt. It was allowed to stir for 3 days. The slurry had gone into solution over that period of time. The mixture was concentrated and purified on silica gel (Biotage, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the titled compound (220 mg, 95%). 1H NMR (500 MHz, CD3OD) δ ppm 7.90-7.99 (3H, m), 7.85-7.90 (1H, m), 7.82-7.84 (1H, m), 7.49-7.56 (3H, m), 7.45 (2 H, d, J=7.32 Hz), 7.27-7.34 (4H, m), 7.19 (1H, t, J=7.32 Hz), 2.87 (3H, s), 1.76 (6 H, s). LC-MS retention time: 1.62 min; m/z (MH+): 552. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 μm, Rt=13.60 min, purity=94%; Column: Waters Xbridge Phenyl column 4.6×150 mm, 3.5 μm, Rt=12.66 min, purity=96%.

reactant | ethyl 2-(4-fluorophenyl)-4-nitro-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxylate | 0.529 mmol, 300 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C(=C(C=C2)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O)[N+](=O)[O-] | C33H27FN2O6
reactant | NaOH | 2.12 mmol, 1N, 2.1 mL | [OH-].[Na+]
reactant | EDC | 0.668 mmol, 128 mg
reactant | 2-(4-fluorophenyl)-4-nitro-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxylic acid | 0.557 mmol, 300 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)O)C(=C(C=C2)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O)[N+](=O)[O-] | C31H23FN2O6
reactant | methanamine | 0.613 mmol, 306 μL | CN | CH5N
reactant | 1-hydroxy-7-azabenzotriazole | 0.613 mmol, 83 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | DIEA | 1.170 mmol, 204 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 5.5 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-fluorophenyl)-N-methyl-4-nitro-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide | 220 mg, 95% | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C(=C(C=C2)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O)[N+](=O)[O-] | C32H26FN3O5
